US07034039B2
Tert-butyl(4-butoxy-2-isobutyl-1-oxo-6-phenyl-1,2-dihydro-3-isoquinolinyl)methylcarbamate (0.34 g, 0.7 mmol) was dissolved in a solution of 4N hydrogen chloride in ethyl acetate (5 ml). The solution was stirred at room temperature for 1 h. The reaction was concentrated under reduced pressure, and the residue was crystallized from methanol-diisopropyl ether to give 3-(aminomethyl)-4-butoxy-2-isobutyl-6-phenyl-1(2H)-isoquinolinone hydrochloride (0.28 g, 96.6%) as crystals.

reactant | Tert-butyl(4-butoxy-2-isobutyl-1-oxo-6-phenyl-1,2-dihydro-3-isoquinolinyl)methylcarbamate | 0.7 mmol, 0.34 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)C1=CC=CC=C1)=O)CC(C)C)=O | C29H38N2O4
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 3-(aminomethyl)-4-butoxy-2-isobutyl-6-phenyl-1(2H)-isoquinolinone hydrochloride | 0.28 g, 96.6% | Cl.NCC=1N(C(C2=CC=C(C=C2C1OCCCC)C1=CC=CC=C1)=O)CC(C)C | InChI=1S/C24H30N2O2.ClH/c1-4-5-13-28-23-21-14-19(18-9-7-6-8-10-18)11-12-20(21)24(27)26(16-17(2)3)22(23)15-25;/h6-12,14,17H,4-5,13,15-16,25H2,1-3H3;1H
